US09278944B2
Benzyl [3-(5-acetyl-2-methoxyphenyl)prop-2-yn-1-yl]carbamate and cyclopropylamine were treated in the similar manner to Reference Example 6(6) to give benzyl (3-{5-[1-(cyclopropylamino)ethyl]-2-methoxyphenyl}prop-2-yn-1-yl)carbamate [Ex(295-2)] as a yellow oil.

reactant | Benzyl [3-(5-acetyl-2-methoxyphenyl)prop-2-yn-1-yl]carbamate | C(C)(=O)C=1C=CC(=C(C1)C#CCNC(OCC1=CC=CC=C1)=O)OC | C20H19NO4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | benzyl (3-{5-[1-(cyclopropylamino)ethyl]-2-methoxyphenyl}prop-2-yn-1-yl)carbamate | C1(CC1)NC(C)C=1C=CC(=C(C1)C#CCNC(OCC1=CC=CC=C1)=O)OC | C23H26N2O3
